### PR TITLE
Solution to IMO1987P6

### PR DESCRIPTION
**Pull request by jiajunma**

### CODE REVIEW

File: Compfiles/Imo1978P6.lean [hunk 1]
```diff
@@ -1,5 +1,5 @@
 /-
-Copyright (c) 2024 The Compfiles Contributors. All rights reserved.
+Copyright (c) 2025 The Compfiles Contributors. All rights reserved.
```
Comment (dwrensha) [inline Compfiles/Imo1978P6.lean:2]: Looks like you accidentally changed the copyright date on the wrong file.

File: Compfiles/Imo1987P6.lean [hunk 2]
```diff
@@ -0,0 +1,271 @@
+/-
+Copyright (c) 2023 The Compfiles Contributors. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Jia-Jun Ma
+-/
+import Mathlib.Data.Nat.Prime.Basic
+import Mathlib.Algebra.Order.Floor
+import Mathlib.Data.Real.Sqrt
+import Mathlib.Tactic.Ring
+import Mathlib.Tactic.linarith
```
Comment (dwrensha) [inline Compfiles/Imo1987P6.lean:10]:
```
error: ././././Compfiles/Imo1987P6.lean: bad import 'Mathlib.Tactic.linarith'
```

File: Compfiles/Imo1987P6.lean [hunk 3]
```diff
@@ -0,0 +1,271 @@
...
+  use (minFac n)
+  simp [Nat.minFac_prime nneone,Nat.minFac_dvd,m]
+
+
+lemma dyadic {k b : ℕ} (h1 : 1 ≤ k) (h2 : k ≤ b) : ∃ i, b < 2^i * k ∧ 2^i *k ≤ 2* b := by
+  have hbk :  b/k ≠ 0 := by
+    apply (Nat.div_ne_zero_iff (a:=b) (b:=k)).2
+    omega
+  use Nat.log2 (b/k) + 1
+  --have hb : 1 ≤  b := le_trans h1 h2
```
Comment (dwrensha) [inline Compfiles/Imo1987P6.lean:61]: Please delete commented-out code.

File: Compfiles/Imo1987P6.lean [hunk 4]
```diff
@@ -0,0 +1,271 @@
...
+
+
+lemma Real.coe_lt_coe {a b :ℕ } : (a :ℝ ) < (b: ℝ) ↔ a < b := by
+  simp [WithZero.coe_lt_coe]
+
+lemma pos_sub_of_lt {a b : ℕ} : a < b → 0 < b-a := by
+  intro h
+  exact Nat.pos_iff_ne_zero.2 <| Nat.sub_ne_zero_of_lt h
+
+problem imo_1987_p6
```
Comment (dwrensha) [inline Compfiles/Imo1987P6.lean:157]: To match the style in the rest of the repo, the name should be `imo1987_p6`

File: Compfiles/Imo1987P6.lean [hunk 5]
```diff
@@ -0,0 +1,271 @@
...
+
+/-!
+# International Mathematical Olympiad 1987, Problem 6
+Let $n$ be an integer greater than or equal to 2. Prove that if $k^2 + k + n$ is prime for all integers $k$ such that $0 <= k <= \sqrt{n/3}$, then $k^2 + k + n$ is prime for all integers $k$ such that $0 <= k <= n - 2$.
+-/
+
+namespace Imo1987P6
+open Nat
+
+lemma minFac_le_sq {n: ℕ} (hnezero : n≠ 0) (hn : minFac n ≠ n)
```
Comment (dwrensha) [inline Compfiles/Imo1987P6.lean:24]: Please put all of these helper lemmas inside a `snip begin ... snip end`.
(See https://github.com/dwrensha/compfiles?tab=readme-ov-file#extracting-problems )

**Comment by dwrensha** [comment]
Thanks!

**Comment by dwrensha** [comment]
I sped things up in https://github.com/dwrensha/compfiles/commit/df5cb5a5002a0bce7e34b85bc2489c3956d23e8b

File: Compfiles/Imo1978P6.lean (hunk 1 above)
Comment (jiajunma) [reply Compfiles/Imo1978P6.lean:2]: > Looks like you accidentally changed the copyright date on the wrong file.

Thanks.

**Comment by jiajunma** [comment]
> I sped things up in [df5cb5a](https://github.com/dwrensha/compfiles/commit/df5cb5a5002a0bce7e34b85bc2489c3956d23e8b)

Thanks!
